datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[O:10]([K])C(C)C([H])N([C:20]([H])=[O:21])[H]>>[O-:21][C:20]1([H])[O+:10]([K])C(C)C([H])N1[H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)[H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[Na][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OC)OC>>[Na][O+:21]([C:20]([O-:10])(OC)OC)C1=CC=CC=C1 21=20;20,10=10"
"[CH:20](=[OH+:21])CC.[I-:10]>>[CH:20]([OH:21])([I:10])CC 10=20;20,21=21"
"[O-:21][C:20]2([NH+:10](C)C(C7=C2C=CC=C7)C)OC>>[NH:10](C)C(C(C=CC=C9)=C9[C:20](OC)=[O:21])C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[O]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[S]2.C[O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O]C)[O]C 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])CCCCCC 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)[H])CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[OH:10]C(CCC)C(C)C(O)C(O)[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C(O)C(O)C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"C[NH:10][H].CC[NH+:21]=[C:20]([NH]CC)[NH]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]CC)([NH]CC)[NH]CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([Na])C(CCC)C(O)=C1[H]>>[O:10]([Na])C(CCC)/C(O)=C([C:20](OC)=[O:21])/[H] 21=20;20,10=10"
"C[O+:10]([Li])[C:21]([O-:20])(OC1=CC=CC=C1)OC1=CC=CC=C1>>[O:20]=[C:21](OC1=CC=CC=C1)OC1=CC=CC=C1.C[O:10][Li] 20=21;21,10=10"
"[H][S:10]C(C)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C([O-:21])C)[H])CC>>[H]N([C:20]1(OC(C([O:21]1)C)[H])[O-:10])CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"[Li][O:21]CCCCCC.[C:20](=[O:10])(OC)OCC>>[Li][O+:21]([C:20]([O-:10])(OC)OCC)CCCCCC 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
